### PR TITLE
Remove send_ipc assertion

### PR DESCRIPTION
**Pull request by MitchellBuckley**
Remove an assertion from send_ipc (ASpec)

### CODE REVIEW

**Review by michaelmcinerney — APPROVED** [review]
Niiiiiiiiice

File: proof/invariant-abstract/DetSchedSchedule_AI.thy [hunk 1]
```diff
@@ -17298,8 +17269,10 @@ lemma send_ipc_ct_in_state:
    \<lbrace>\<lambda>_. ct_in_state P :: 'state_ext state \<Rightarrow> _\<rbrace>"
   supply if_split [split del]
   unfolding send_ipc_def
-  apply (wpsimp wp: sts_ctis_neq maybeM_inv)
-            apply (wpsimp wp: hoare_vcg_imp_lift' hoare_vcg_all_lift get_tcb_obj_ref_wp)
+  apply wpsimp
+       apply ((wpsimp wp: sts_ctis_neq)+)[3]
+    apply wpsimp
+            apply (wpsimp wp: sts_ctis_neq)
```
Comment (corlewis) [inline proof/invariant-abstract/DetSchedSchedule_AI.thy:17275]: That looks a bit unpleasant. What does the middle wpsimp use instead of `sts_ctis_neq`?

File: proof/invariant-abstract/IpcDet_AI.thy [hunk 2]
```diff
@@ -1900,6 +1893,10 @@ lemma si_invs'_helper_no_reply:
   apply (fastforce simp: live_def elim!: if_live_then_nonz_capD2)
   done
 
+lemma active_st_tcb_at_awaiting_replyD:
+  "st_tcb_at active t s \<Longrightarrow> st_tcb_at (\<lambda>x. \<not> awaiting_reply x) t s"
+  by (fastforce simp: pred_tcb_at_def obj_at_def split: thread_state.splits)
```
Comment (corlewis) [inline proof/invariant-abstract/IpcDet_AI.thy:1898]: I'm generally not a fan of such specific thread_state lemmas. What's the use case, and is it possible to use `pred_tcb_weakenE` instead?

**Review by corlewis — APPROVED** [review]
Nice, that should make things simpler!

File: proof/invariant-abstract/IpcDet_AI.thy (hunk 2 above)
Comment (MitchellBuckley) [reply proof/invariant-abstract/IpcDet_AI.thy:1898]: Good point, fixed it :+1:

File: proof/invariant-abstract/DetSchedSchedule_AI.thy (hunk 1 above)
Comment (MitchellBuckley) [reply proof/invariant-abstract/DetSchedSchedule_AI.thy]: It was there to break the wpsimp loop at a specific point, but a little investigation has revealed a simpler proof :) Thanks for pointing it out!

**Review by mktnk3 — APPROVED** [review]
Nice :)

**Review by lsf37 — APPROVED** [review]
👍
